US08222424B2
2-Chloro-5-(4-hexyloxy-benzoyl)-benzenesulfonamide
2-Chloro-5-[(4-hexyloxy-phenyl)-hydroxy-methyl]-benzenesulfonamide is dissolved in acetone (10 mL), and treated with a solution of Jones reagent (3 M in water, 0.91 mmol). The reaction is allowed to stir for 30 minutes. The reaction is diluted with water and extracted with dichloromethane. The organic phase is separated and concentrated in vacuo. The residue is purified by silica gel chromatography (gradient of ethyl acetate in hexanes 25-75%) followed by recrystallization from ether affording 30 mg of the title compound. 1H NMR (DMSO) δ 0.88 (t, 3H, J=6.78 Hz), 1.28-1.45 (m, 6H), 1.70-1.79 (m, 2H), 4.09 (t, 2H, J=6.4 Hz), 7.10 (d, 2H, J=9.04 Hz), 7.75-7.90 (m, 4H), 8.24 (d, 1H, J=1.89). MS (m/z): 396 (M+1).

reactant | 2-Chloro-5-[(4-hexyloxy-phenyl)-hydroxy-methyl]-benzenesulfonamide | ClC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)OCCCCCC)S(=O)(=O)N | C19H24ClNO4S
reactant | Jones reagent | 0.91 mmol, 3 M | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-Chloro-5-(4-hexyloxy-benzoyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OCCCCCC)=O)S(=O)(=O)N | C19H22ClNO4S
